US04208411
1-[N-(2,4-dichlorophenyl)-3-propoxypropanimidoyl]-imidazole (Compound No. 36)
6.9 g of 2',4'-dichloro-3-(propoxy)propionanilide and 8 g of triethylamine were dissolved in 30 ml of chloroform and 3.7 g of phosgene were introduced thereto at 0° to 10° C. under cooling with ice. After raising the temperature of the solution to room temperature, the solution was stirred for 2 hours, and then, 2 g of imidazole were added thereto. The mixture was heated under reflux for 2 hours. After completion of the reaction, the resulting reaction solution was cooled to room temperature, washed with water and dried over anhydrous magnesium sulfate. Removal of chloroform from the solution by distillation gave 7.7 g of the desired compound. (nD29 1.5688)

reactant | 2',4'-dichloro-3-(propoxy)propionanilide | 6.9 g | ClC1=C(NC(CCOCCC)=O)C=CC(=C1)Cl | C12H15Cl2NO2
reactant | triethylamine | 8 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | 3.7 g | C(=O)(Cl)Cl | CCl2O
reactant | imidazole | 2 g | N1C=NC=C1 | C3H4N2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[N-(2,4-dichlorophenyl)-3-propoxypropanimidoyl]-imidazole | 7.7 g | ClC1=C(C=CC(=C1)Cl)N=C(CCOCCC)N1C=NC=C1 | C15H17Cl2N3O
